.subckt 74LS393 mr_a cp_a q0a q1a q2a q3a q3b q2b q1b q0b cp_b mr_b vhigh

* Internal hi/lo
Vhi_a vhi_a 0 DC 5
Vlo_a vlo_a 0 DC 0
A_hi_a [vhi_a] [hi] adclo
A_lo_a [vlo_a] [lo] adclo
.model adclo adc_bridge(in_low=0.8 in_high=2.0)

* Inverters for falling edge trigger
Ainva cp_a cp_ai uinv
Ainvb cp_b cp_bi uinv
.model uinv d_inverter(rise_delay=1e-9 fall_delay=1e-9 input_load=1e-12)

* J K CLK SET RESET Q Qbar
* SET=lo(0), RESET=mr (active HIGH)
Aff0a hi hi cp_ai lo mr_a q0a q0ab u2
Aff1a hi hi q0ab  lo mr_a q1a q1ab u3
Aff2a hi hi q1ab  lo mr_a q2a q2ab u4
Aff3a hi hi q2ab  lo mr_a q3a q3ab u5

Aff0b hi hi cp_bi lo mr_b q0b q0bb u7
Aff1b hi hi q0bb  lo mr_b q1b q1bb u8
Aff2b hi hi q1bb  lo mr_b q2b q2bb u9
Aff3b hi hi q2bb  lo mr_b q3b q3bb u10

.model u2  d_jkff(clk_delay=1e-9 set_delay=1e-9 reset_delay=1e-9 ic=0 jk_load=1e-12 clk_load=1e-12 set_load=1e-12 reset_load=1e-12 rise_delay=1e-9 fall_delay=1e-9)
.model u3  d_jkff(clk_delay=1e-9 set_delay=1e-9 reset_delay=1e-9 ic=0 jk_load=1e-12 clk_load=1e-12 set_load=1e-12 reset_load=1e-12 rise_delay=1e-9 fall_delay=1e-9)
.model u4  d_jkff(clk_delay=1e-9 set_delay=1e-9 reset_delay=1e-9 ic=0 jk_load=1e-12 clk_load=1e-12 set_load=1e-12 reset_load=1e-12 rise_delay=1e-9 fall_delay=1e-9)
.model u5  d_jkff(clk_delay=1e-9 set_delay=1e-9 reset_delay=1e-9 ic=0 jk_load=1e-12 clk_load=1e-12 set_load=1e-12 reset_load=1e-12 rise_delay=1e-9 fall_delay=1e-9)
.model u7  d_jkff(clk_delay=1e-9 set_delay=1e-9 reset_delay=1e-9 ic=0 jk_load=1e-12 clk_load=1e-12 set_load=1e-12 reset_load=1e-12 rise_delay=1e-9 fall_delay=1e-9)
.model u8  d_jkff(clk_delay=1e-9 set_delay=1e-9 reset_delay=1e-9 ic=0 jk_load=1e-12 clk_load=1e-12 set_load=1e-12 reset_load=1e-12 rise_delay=1e-9 fall_delay=1e-9)
.model u9  d_jkff(clk_delay=1e-9 set_delay=1e-9 reset_delay=1e-9 ic=0 jk_load=1e-12 clk_load=1e-12 set_load=1e-12 reset_load=1e-12 rise_delay=1e-9 fall_delay=1e-9)
.model u10 d_jkff(clk_delay=1e-9 set_delay=1e-9 reset_delay=1e-9 ic=0 jk_load=1e-12 clk_load=1e-12 set_load=1e-12 reset_load=1e-12 rise_delay=1e-9 fall_delay=1e-9)

.ends 74LS393
