.title 74LS165 Testbench

.include C:\eSim_Kaviya\LS165_sub\LS165_sub.cir

v1 n_clk GND DC 0 pulse(0 5 0 1e-9 1e-9 0.00005 0.0001)
v2 n_shld GND DC 0 pulse(0 5 0 1e-9 1e-9 0.004 0.008)
v3 n_zero GND DC 0
v4 n_high GND DC 5

.model adcm adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1e-9 fall_delay=1e-9)
.model dacm dac_bridge(out_low=0 out_high=5 out_undef=2.5 t_rise=1e-9 t_fall=1e-9)

a_adc1 [n_clk n_shld n_zero n_zero] [dCLK dSHLD dlow dlow2] adcm
a_adc2 [n_high n_high n_high n_high] [dA dB dC dD] adcm
a_adc3 [n_high n_high n_high n_zero] [dE dF dG dH] adcm

XSUB dA dB dC dD dE dF dG dH dCLK dSHLD dlow dQH dQHbar LS165

a_dac1 [dQH] [n_qh] dacm
a_dac2 [dQHbar] [n_qhbar] dacm

r1 n_qh GND 1k
r2 n_qhbar GND 1k

.options trtol=1 evmax=10000
.tran 0.00001 0.008

.control
run
plot v(n_clk)+10 v(n_shld)+5 v(n_qh) v(n_qhbar)
.endc

.end