* c:\fossee\esim\library\subcircuitlibrary\74lvc1g17\74lvc1g17.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m4 net-_m1-pad1_ net-_m1-pad2_ net-_m3-pad1_ vdd CMOSP W=100u L=100u M=1
m3 net-_m3-pad1_ net-_m1-pad2_ vdd vdd CMOSP W=100u L=100u M=1
m5 gnd net-_m1-pad1_ net-_m3-pad1_ vdd CMOSP W=100u L=100u M=1
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ gnd CMOSN W=100u L=100u M=1
m2 net-_m1-pad3_ net-_m1-pad2_ gnd gnd CMOSN W=100u L=100u M=1
m6 vdd net-_m1-pad1_ net-_m1-pad3_ gnd CMOSN W=100u L=100u M=1
m10 net-_m10-pad1_ net-_m1-pad1_ net-_m10-pad3_ vdd CMOSP W=100u L=100u M=1
m9 net-_m10-pad3_ net-_m1-pad1_ vdd vdd CMOSP W=100u L=100u M=1
m11 gnd net-_m10-pad1_ net-_m10-pad3_ vdd CMOSP W=100u L=100u M=1
m7 net-_m10-pad1_ net-_m1-pad1_ net-_m12-pad3_ gnd CMOSN W=100u L=100u M=1
m8 net-_m12-pad3_ net-_m1-pad1_ gnd gnd CMOSN W=100u L=100u M=1
m12 vdd net-_m10-pad1_ net-_m12-pad3_ gnd CMOSN W=100u L=100u M=1
* u1  net-_m1-pad2_ gnd vdd net-_m10-pad1_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
