.title kicad schematic

* u19 net-_u5-pad1_ net-_u4-pad1_ net-_u3-pad1_ net-_u2-pad1_ net-_u1-pad1_ net-_u6-pad2_ net-_sc1-pad5_ net-_sc2-pad5_ net-_sc3-pad5_ net-_sc4-pad5_ net-_sc5-pad5_ net-_sc6-pad5_ net-_sc7-pad5_ net-_sc8-pad5_ port
xsc1 net-_u17-pad1_ net-_u15-pad1_ net-_u13-pad1_ net-_u6-pad3_ net-_sc1-pad5_ sky130_stdcells__nand4_1 
* u14 net-_u8-pad3_ net-_u13-pad3_ net-_u13-pad1_ d_nor
xsc2 net-_u17-pad3_ net-_u15-pad1_ net-_u13-pad1_ net-_u6-pad3_ net-_sc2-pad5_ sky130_stdcells__nand4_1 
* u11 net-_u5-pad1_ net-_u2-pad2_ net-_u11-pad3_ d_and
* u12 net-_u5-pad2_ net-_u2-pad2_ net-_u12-pad3_ d_and
* u4 net-_u4-pad1_ net-_u4-pad2_ d_inverter
* u10 net-_u4-pad2_ net-_u2-pad2_ net-_u10-pad3_ d_and
* u5 net-_u5-pad1_ net-_u5-pad2_ d_inverter
* u9 net-_u4-pad1_ net-_u2-pad2_ net-_u9-pad3_ d_and
* u8 net-_u3-pad2_ net-_u2-pad2_ net-_u8-pad3_ d_and
* u3 net-_u3-pad1_ net-_u3-pad2_ d_inverter
* u15 net-_u15-pad1_ net-_u9-pad3_ net-_u15-pad3_ d_nor
* u16 net-_u10-pad3_ net-_u15-pad3_ net-_u15-pad1_ d_nor
* u17 net-_u17-pad1_ net-_u11-pad3_ net-_u17-pad3_ d_nor
* u18 net-_u12-pad3_ net-_u17-pad3_ net-_u17-pad1_ d_nor
xsc7 net-_u17-pad1_ net-_u15-pad3_ net-_u13-pad3_ net-_u6-pad3_ net-_sc7-pad5_ sky130_stdcells__nand4_1 
xsc8 net-_u17-pad3_ net-_u15-pad3_ net-_u13-pad3_ net-_u6-pad3_ net-_sc8-pad5_ sky130_stdcells__nand4_1 
xsc6 net-_u17-pad3_ net-_u15-pad1_ net-_u13-pad3_ net-_u6-pad3_ net-_sc6-pad5_ sky130_stdcells__nand4_1 
xsc5 net-_u17-pad1_ net-_u15-pad1_ net-_u13-pad3_ net-_u6-pad3_ net-_sc5-pad5_ sky130_stdcells__nand4_1 
xsc3 net-_u17-pad1_ net-_u15-pad3_ net-_u13-pad1_ net-_u6-pad3_ net-_sc3-pad5_ sky130_stdcells__nand4_1 
xsc4 net-_u17-pad3_ net-_u15-pad3_ net-_u13-pad1_ net-_u6-pad3_ net-_sc4-pad5_ sky130_stdcells__nand4_1 
* u6 net-_u1-pad2_ net-_u6-pad2_ net-_u6-pad3_ d_and
* u7 net-_u3-pad1_ net-_u2-pad2_ net-_u7-pad3_ d_and
* u2 net-_u2-pad1_ net-_u2-pad2_ d_inverter
* u13 net-_u13-pad1_ net-_u7-pad3_ net-_u13-pad3_ d_nor
* u1 net-_u1-pad1_ net-_u1-pad2_ d_inverter
a1 [net-_u8-pad3_ net-_u13-pad3_ ] net-_u13-pad1_ u14
a2 [net-_u5-pad1_ net-_u2-pad2_ ] net-_u11-pad3_ u11
a3 [net-_u5-pad2_ net-_u2-pad2_ ] net-_u12-pad3_ u12
a4 net-_u4-pad1_ net-_u4-pad2_ u4
a5 [net-_u4-pad2_ net-_u2-pad2_ ] net-_u10-pad3_ u10
a6 net-_u5-pad1_ net-_u5-pad2_ u5
a7 [net-_u4-pad1_ net-_u2-pad2_ ] net-_u9-pad3_ u9
a8 [net-_u3-pad2_ net-_u2-pad2_ ] net-_u8-pad3_ u8
a9 net-_u3-pad1_ net-_u3-pad2_ u3
a10 [net-_u15-pad1_ net-_u9-pad3_ ] net-_u15-pad3_ u15
a11 [net-_u10-pad3_ net-_u15-pad3_ ] net-_u15-pad1_ u16
a12 [net-_u17-pad1_ net-_u11-pad3_ ] net-_u17-pad3_ u17
a13 [net-_u12-pad3_ net-_u17-pad3_ ] net-_u17-pad1_ u18
a14 [net-_u1-pad2_ net-_u6-pad2_ ] net-_u6-pad3_ u6
a15 [net-_u3-pad1_ net-_u2-pad2_ ] net-_u7-pad3_ u7
a16 net-_u2-pad1_ net-_u2-pad2_ u2
a17 [net-_u13-pad1_ net-_u7-pad3_ ] net-_u13-pad3_ u13
a18 net-_u1-pad1_ net-_u1-pad2_ u1
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u14 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u11 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u12 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u10 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u9 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u8 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u15 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u16 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u17 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u18 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u7 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u13 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u1 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
